US09422281B2
A 2-L, three-necked, round bottomed flask fitted with a nitrogen inlet, overhead stirring, and thermocouple was charged with (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydroquinoxaline (45.0 g, 118 mmol), dichloromethane (900 mL), and pyridine (14.32 mL, 177 mmol). The mixture was cooled to 0° C. and acetyl chloride (10.07 mL, 142 mmol) was added slowly while maintaining the internal temperature below 10° C. The reaction mixture was held cold (ca. 30 min) and then warmed to rt. After 1 h, the reaction was diluted with dichloromethane (200 mL), and the solution was washed with 1 M aqueous HCl (2×100 mL) and water (100 mL). The organic layer was concentrated under reduced pressure and the crude product was purified by column chromatography on silica gel (eluting with 3:1 dichloromethane-ethyl acetate) to afford (S)-1-(6-bromo-2-methyl-4-tosyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (54.15 g, 108%), which contained 4.1 wt % ethyl acetate, as a colorless to yellow oil. MS (ESI, pos. ion) m/z 424 [M+1]+.

reactant | (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydroquinoxaline | 118 mmol, 45.0 g | BrC1=CC=C2N[C@H](CN(C2=C1)S(=O)(=O)C1=CC=C(C)C=C1)C | C16H17BrN2O2S
reactant | pyridine | 177 mmol, 14.32 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 142 mmol, 10.07 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | (S)-1-(6-bromo-2-methyl-4-tosyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 54.15 g, 108% | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C)=O)C)S(=O)(=O)C1=CC=C(C)C=C1 | C18H19BrN2O3S
